US07423042B2
b) 8-(2,6-Difluorophenyl)-4-(2-methylphenyl)-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one
THF (10 mL) and 2M sodium carbonate (2 mL) were added to a mixture of 4-chloro-8-(2,6-difluorophenyl)-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one (0.34 g, 1.0 mmol, solid-supported tetrakis(triphenylphosphine)palladium(0) (0.39 g, 0.1 mmol) and 4-fluorobenzeneboronic acid (0.21 g, 1.5 mmol). The mixture was irradiated with microwave at about 150° C. for about 20 min, then filtered and the filtrate evaporated. The crude product was redissolved in ethyl acetate (10 mL) and water (10 mL). The layers were separated and the organic layer was dried over magnesium sulphate, filtered and evaporated. The crude product was purified by flash chromatography on silica gel with cyclohexane containing ethyl acetate (0 to 50%) to give the title compound (0.25 g, 63%). LC-MS m/z 396 (M+H)+, 3.55 min (ret time).

reactant | sodium carbonate | 2M, 2 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-chloro-8-(2,6-difluorophenyl)-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one | ClC=1C2=C(N=C(N1)SC)N(C(C=C2)=O)C2=C(C=CC=C2F)F | C14H8ClF2N3OS
reactant | 4-fluorobenzeneboronic acid | 1.5 mmol, 0.21 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.1 mmol, 0.39 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 8-(2,6-Difluorophenyl)-4-(2-methylphenyl)-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one | 0.25 g, 63% | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C2=C(C=CC=C2)C)SC)=O | C21H15F2N3OS
